US07273882B2
A mixture of 1,3-dibromo-5-(bromomethyl)benzene (1.1 g, ˜3.3 mmol) and potassium phthalimide (0.62 g, 3.3 mmol) in DMF (10 ml) was heated at 120° C. for 2 hours. After cooled down, a white solid precipitated. The solid was filtered and washed with ethanol, then dried in vacuum. 2-(3,5-dibromobenzyl)isoindoline-1,3-dione (1.1 g, 83%) was obtained as white solid.

reactant | 1,3-dibromo-5-(bromomethyl)benzene | ˜3.3 mmol, 1.1 g | BrC1=CC(=CC(=C1)CBr)Br | C7H5Br3
reactant | potassium phthalimide | 3.3 mmol, 0.62 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(3,5-dibromobenzyl)isoindoline-1,3-dione | 1.1 g, 83% | BrC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Br | C15H9Br2NO2
